US06596719B1
According to the procedure described in Example 4b) 1.0 g 5-methyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide was reacted with 2-aminoethanol to give 950 mg 5-methyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrmidinyl]-2-pyridine sulfonamide. LC-MS: tR=3.00 min, (M+1]+=509.53, [M−1]−=507.57.

reactant | 5-methyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 1.0 g | CC=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=CC=NC=C1 | C22H18ClN5O4S
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 5-methyl-N-[6-(2-aminoethoxy)-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrmidinyl]-2-pyridine sulfonamide | 950 mg | CC=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCN)C1=CC=NC=C1 | C24H24N6O5S
